US04264593
A. p-Bromo-t-amylbenzene
A glass reactor equipped with a mechanically driven stirrer, addition funnel and hydrogen bromide trap was charged with 300 g (2.02 mole) of t-amylbenzene and 8 g of iron filings. Bromine (374 g, 2.02 mole) was added dropwise at a rate such that the temperature of the reaction mixture was maintained at about 35° C. The reaction mixture was stirred for 15 hours while being heated to a temperature of 50° C. The contents of the reactor were then cooled and combined with 200 cc of a saturated aqueous sodium bisulfite solution. After being stirred for a few moments the reaction mixture was filtered. The organic layer was then separated and combined with a quantity of anhydrous magnesium sulfate to remove any water present. The liquid phase was then separated and distilled under a pressure of 0.1 mm of mercury. The fraction boiling from 70° to 75° C. was collected and analyzed for carbon, hydrogen and bromine.

reactant | hydrogen bromide | Br | BrH
reactant | t-amylbenzene | 2.02 mole, 300 g | C(C)(C)(CC)C1=CC=CC=C1 | C11H16
reactant | Bromine | 2.02 mole, 374 g | BrBr | Br2
catalyst | iron | 8 g | [Fe] | Fe
solvent | sodium bisulfite | 200 cc | S([O-])(O)=O.[Na+]
product | p-Bromo-t-amylbenzene | BrC1=CC=C(C=C1)C(C)(C)CC | C11H15Br
